US07696223B2
a) 7-Chloro-1-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
Prepared in analogy to that of 3-chloro-1,2-bis-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester from 1-(4-Fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester. The title compound, 1H NMR (200 MHz, CDCl3): δ (ppm)=11.82 (s, 1H), 7.7-7.1 (m, 10H), 4.51 (q, 2H, J=6.8 Hz), 1.46 (t, 3H, J=6.8 Hz).

reactant | 3-chloro-1,2-bis-(4-fluoro-phenyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C(=C2Cl)C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)O | C22H15ClF2N2O3
reactant | 1-(4-Fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2C2=CC=CC=C2)C2=CC=C(C=C2)F)O | C22H17FN2O3
product | 7-Chloro-1-(4-fluoro-phenyl)-4-hydroxy-3-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)Cl)N(C=C2C2=CC=CC=C2)C2=CC=C(C=C2)F)O | C22H16ClFN2O3
